** sch_path: /home/pc/heichips25-ethernet/xschem/ethernet_analog_tb.sch
**.subckt ethernet_analog_tb dn dp
*.iopin dn
*.iopin dp
Vdata vdat GND 1.2
Vsupply vdd GND 1.5
x1 vdd vdat dn dp GND ethernet_analog
**** begin user architecture code


.param temp=27
.control
save all
op
dc Vdata 0 1.5 0.1
plot v(vdat) v(dp) v(dn)
.endc


 .lib cornerMOSlv.lib mos_tt

**** end user architecture code
**.ends

* expanding   symbol:  /home/pc/heichips25-ethernet/xschem/ethernet_analog.sym # of pins=5
** sym_path: /home/pc/heichips25-ethernet/xschem/ethernet_analog.sym
** sch_path: /home/pc/heichips25-ethernet/xschem/ethernet_analog.sch
.subckt ethernet_analog VPWR data_in etherent_dn ethernet_dp VGND
*.ipin data_in
*.iopin etherent_dn
*.iopin VGND
*.iopin VPWR
*.iopin ethernet_dp
XM2 etherent_dn data_in VGND VGND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM1 etherent_dn data_in VPWR VPWR sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XR2 data_in ethernet_dp sub! rsil w=2.5e-6 l=0.5e-6 m=1 b=0
.ends

.GLOBAL GND
.end
